US07456164B2
Intermediate 32: 1-(3-Chloro-1-methyl-propyl)-pyrrolidine hydrochloride
3-Pyrrolidin-1-yl-butan-1-ol (1.0 g, 7 mmol) was dissolved in DCM (20 ml). The reaction was cooled to 0-5° C. and thionyl chloride (1.65 g, 14 mmol) was added slowly. The reaction was allowed to warm to room temperature and stirred overnight. The reaction was concentrated in vacuo and azeotroped with DCM (20 ml) to give the title compound (1.4 g, 100%) as a brown oil.

reactant | 3-Pyrrolidin-1-yl-butan-1-ol | 7 mmol, 1.0 g | N1(CCCC1)C(CCO)C | C8H17NO
reactant | thionyl chloride | 14 mmol, 1.65 g | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-Chloro-1-methyl-propyl)-pyrrolidine hydrochloride | 1.4 g, 100% | Cl.ClCCC(C)N1CCCC1 | InChI=1S/C8H16ClN.ClH/c1-8(4-5-9)10-6-2-3-7-10;/h8H,2-7H2,1H3;1H
